US07517991B2
To a solution of 4-aminomethyl-1-(1-naphthylsulfonyl)piperidine (608 mg, 2.0 mmol) and triethylamine (303 mg, 3.0 mmol) in dichloromethane (30 mL) stirring at room temperature under argon, was added cyclohexanecarbonyl chloride (325 mg, 2.2 mmol) in a single portion. After 2 h the solvent was evaporated under vacuum, and the residue was slurried with diethyl ether and filtered. The filtrate was evaporated, and purification by column chromatography (silica gel, ethyl acetate in hexane) provided 4-(N-cyclohexylcarbonylaminomethyl)-1-(1-naphthylsulfonyl)piperidine (793 mg, 96% yield) as a gum.

reactant | 4-aminomethyl-1-(1-naphthylsulfonyl)piperidine | 2.0 mmol, 608 mg | NCC1CCN(CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C16H20N2O2S
reactant | triethylamine | 3.0 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 2.2 mmol, 325 mg | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(N-cyclohexylcarbonylaminomethyl)-1-(1-naphthylsulfonyl)piperidine | 793 mg, 96% yield | C1(CCCCC1)C(=O)NCC1CCN(CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C23H30N2O3S
